US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (0.32 g, 0.74 mmol) was dissolved in 10 ml DMF at room temperature and K2CO3 (0.51 g, 3.7 mmol) was added. 3-Chloro-2,2-dimethyl-propionic acid ethyl ester (0.25 g, 1.52 mmol) was added and the reaction was allowed to heat to 90° C. for 6 days. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate, dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (60% EtOAc/40% Hexane) to afford the (2S,4R)-3-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-propionic acid ethyl ester (0.13 g, 32%).

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.74 mmol, 0.32 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | K2CO3 | 3.7 mmol, 0.51 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Chloro-2,2-dimethyl-propionic acid ethyl ester | 1.52 mmol, 0.25 g | C(C)OC(C(CCl)(C)C)=O | C7H13ClO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-3-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-propionic acid ethyl ester | 0.13 g, 32% | C(C)OC(C(COC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)(C)C)=O | C32H35ClN2O5
